### PR TITLE
[Merged by Bors] - feat(RingTheory/Coalgebra): product of coalgebras

### PR DESCRIPTION
**Pull request by eric-wieser**
This also splits out a `CoalgebraStruct` typeclass, to allow defining the operators and their definitional properties before committing to proving coassociativity.

These proofs are extremely painful, as you're fighting associativity all the time (and `LinearMap.comp` is very verbose in the goal view)

---

Salvaged from https://github.com/leanprover-community/mathlib4/pull/8621#discussion_r1408558962.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/TensorProduct.lean [hunk 1]
```diff
@@ -801,6 +802,26 @@ lemma map_comp_comm_eq (f : M →ₗ[R] P) (g : N →ₗ[R] Q) :
       TensorProduct.comm R Q P ∘ₗ map g f :=
   ext rfl
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/TensorProduct.lean:804]: I think it's worth adding comments to this lemma along the lines of:
```suggestion

/--  Given linear maps `f : M → Q`, `g : N → S`, and `h : P → T`, if we identify `(M ⊗ N) ⊗ P` with
`M ⊗ (N ⊗ P)`, and `(Q ⊗ S) ⊗ T` with `Q ⊗ (S ⊗ T)` then this lemma states that
`f ⊗ (g ⊗ h) = (f ⊗ g) ⊗ h`. -/
```
and likewise its three friends below.

File: Mathlib/RingTheory/Coalgebra.lean [hunk 2]
```diff
@@ -90,6 +92,63 @@ theorem counit_apply (r : R) : counit r = r := rfl
...
+variable [Coalgebra R A] [Coalgebra R B]
+
+open LinearMap in
+instance instCoalgebra : Coalgebra R (A × B) where
+  comul := .coprod
+    (TensorProduct.map (.inl R A B) (.inl R A B) ∘ₗ comul)
+    (TensorProduct.map (.inr R A B) (.inr R A B) ∘ₗ comul)
+  counit := .coprod counit counit
+  rTensor_counit_comp_comul := by
+    ext x : 2 <;> dsimp
```
Comment (ocfnash) [inline Mathlib/RingTheory/Coalgebra.lean:107]: This is a pair of non-terminal `dsimp`s. Shouldn't we squeeze them and just append the results to the `simp only`s?

Comment (ocfnash) [reply Mathlib/RingTheory/Coalgebra.lean:107]: Same remark for the proofs of `lTensor_counit_comp_comul` and `coassoc` below.

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+

**Comment by eric-wieser** [comment]
I did a bit of a refactor, so this probably needs another round of review

**Comment by eric-wieser** [comment]
bors merge

**Comment by eric-wieser** [comment]
> We don't have morphisms of coalgebras, right? 

Nope; though I'm guessing if we did their fields would very closely resemble the lemmas I wrote here!
